US07705025B2
[2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone
The title intermediate is prepared in a manner substantially analogous General Procedure E using 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid (CAS 180516-87-4). The crude product is confirmed by NMR and used without further purification.

reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid | CC1(OB(OC1(C)C)C1=CC=C(C(=O)O)C=C1)C | C13H17BO4
product | [2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H35BN2O3
